US05089504
A. Preparation of ethyl 2-butyryl-3-(4-hydroxymethylphenylamino)acrylate
4-Aminobenzylalcohol (25 g) and ethyl 2-butyryl-3-ethoxyacrylate (61 g) were heated together on a rotary evaporator (bath temp 100°) for 30 minutes. Ethyl 2-butyryl-3-(4-(hydroxymethyl)phenylamino)acrylate (49.5 g, 84%) crystallized on standing, was filtered off, washed with a little petroleum ether and vacuum dried, m.p. 44°-6°.

reactant | 4-Aminobenzylalcohol | 25 g | NC1=CC=C(CO)C=C1 | C7H9NO
reactant | ethyl 2-butyryl-3-ethoxyacrylate | 61 g | C(CCC)(=O)C(C(=O)OCC)=COCC | C11H18O4
product | ethyl 2-butyryl-3-(4-hydroxymethylphenylamino)acrylate | C(CCC)(=O)C(C(=O)OCC)=CNC1=CC=C(C=C1)CO | C16H21NO4
